US07501406B2
c) 5-Chloro-pyridine-2-sulfonic acid (4-difluoromethoxy-benzyl)-((R)-5.5-difluoro-2-oxo-azepan-3-yl)-amide
5-Chloro-pyridine-2-sulfonic acid ((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amide (0.21 g, 0.61 mmol), 4-(difluoromethoxy)benzyl bromide (0.23 g, 0.91 mmol), K2CO3 (0.85 g, 6.08 mmol), KI (0.02 g, 0.12 mmol) were added to dry DMF (10 ml) and the resultant reaction mixture was stirred for 1.5 h at 65° C. and for additional 3 h at room temperature under an argon atmosphere. The solvent was removed under reduced pressure and the residue was purified over silica gel (first: ethyl acetate/n-heptane 1:2 v/v; second: dichloromethane/MeOH, 100:0-95:5): brownish oil, 0.23 g;

reactant | 5-Chloro-pyridine-2-sulfonic acid ((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amide | 0.61 mmol, 0.21 g | FC1(C[C@H](C(NCC1)=O)NS(=O)(=O)C1=NC=C(C=C1)Cl)F | C11H12ClF2N3O3S
reactant | 4-(difluoromethoxy)benzyl bromide | 0.91 mmol, 0.23 g | FC(OC1=CC=C(CBr)C=C1)F | C8H7BrF2O
reactant | K2CO3 | 6.08 mmol, 0.85 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-pyridine-2-sulfonic acid (4-difluoromethoxy-benzyl)-((R)-5.5-difluoro-2-oxo-azepan-3-yl)-amide | FC(OC1=CC=C(CN(S(=O)(=O)C2=NC=C(C=C2)Cl)[C@H]2C(NCCC(C2)(F)F)=O)C=C1)F | C19H18ClF4N3O4S
